US05055465
1-(1H-Imidazol-1-yl)methyl-8-(N-phenyl-(4-hydroxybutyl)amino)imidazo-[1,5-a]pyrido[3,4-e]pyrazin-4(5H)-one
Treat 2,4-dichloro-5-nitropyridine with 2-((imidazol-1-yl)methyl)imidazole followed by reaction with N-phenyl-4-hydroxybutylamine, hydrogenation with palladium on carbon and cyclization with carbonyldiimidazole to provide the title compound.

reactant | 2,4-dichloro-5-nitropyridine | ClC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | 2-((imidazol-1-yl)methyl)imidazole | N1(C=NC=C1)CC=1NC=CN1 | C7H8N4
reactant | N-phenyl-4-hydroxybutylamine | C1(=CC=CC=C1)NCCCCO | C10H15NO
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(1H-Imidazol-1-yl)methyl-8-(N-phenyl-(4-hydroxybutyl)amino)imidazo-[1,5-a]pyrido[3,4-e]pyrazin-4(5H)-one | N1(C=NC=C1)CC1=NC=C2N1C1=C(NC2=O)C=NC(=C1)N(C1=CC=CC=C1)CCCCO | C23H23N7O2
